US07157456B2
tert-Butyl 4-{4-[5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3oxazolidin-3-yl]phenyl}-3,5-dioxo-1-piperazinecarboxylate
A solution of 199 mg (0.85 mmol) of Boc-iminodiacetic acid, 300 mg (2.2 mmol) of HOBT, 0.66 ml (6 mmol) of N-methylmorpholine and 647 mg (1.7 mmol) of HBTU is admixed with 300 mg (0.85 mmol) of N-{[3-(4-aminophenyl)-2-oxo-1,3-oxazolidin-5-yl]-methyl }-5-chloro-2-thiophene-carboxamide in 6 ml of a mixture of DMF and dichloromethane (1:1). The mixture is stirred overnight, diluted with dichloromethane and then washed with water, saturated ammonium chloride solution, saturated sodium bicarbonate solution, water and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and concentrated. The crude product is purified by silica gel chromatography (dichloromethane/methanol 98:2). Yield: 134 mg (29% of theory);

reactant | Boc-iminodiacetic acid | 0.85 mmol, 199 mg | C(=O)(OC(C)(C)C)C(C(=O)O)NCC(=O)O | C9H15NO6
reactant | HOBT | 2.2 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 6 mmol, 0.66 ml | CN1CCOCC1 | C5H11NO
reactant | HBTU | 1.7 mmol, 647 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-{[3-(4-aminophenyl)-2-oxo-1,3-oxazolidin-5-yl]-methyl }-5-chloro-2-thiophene-carboxamide | 0.85 mmol, 300 mg | NC1=CC=C(C=C1)N1C(OC(C1)CNC(=O)C=1SC(=CC1)Cl)=O | C15H14ClN3O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl 4-{4-[5-({[(5-chloro-2-thienyl)carbonyl]amino}methyl)-2-oxo-1,3oxazolidin-3-yl]phenyl}-3,5-dioxo-1-piperazinecarboxylate | ClC1=CC=C(S1)C(=O)NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1C(CN(CC1=O)C(=O)OC(C)(C)C)=O | C24H25ClN4O7S
